US09303007B2
NBS (407 mg, 2.287 mmol) was added to a solution of 6-bromo-2-(1-ethoxyvinyl)quinoline (530 mg, 1.91 mmol) in THF (10 mL) and water (2.5 mL) and the mixture was stirred at rt for 2 h. The reaction mixture was partitioned between EtOAc and brine and the organic layer was concentrated. The crude material was purified by flash silica gel chromatography (eluted with Et2O/hexanes, gradient from 0 to 5% Et2O) to yield 2-bromo-1-(6-bromoquinolin-2-yl)ethanone (380 mg) as white solid. LC-MS retention time 3.988 min; m/z 329.84 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a PHENOMENEX® Luna 3u C18 2.0×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 0.8 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 4 min, a hold time of 1 min, and an analysis time of 5 min where Solvent A was 10% MeOH/90% H2O/0.1% trifluoroacetic acid and Solvent B was 10% H2O/90% MeOH/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | NBS | 2.287 mmol, 407 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 6-bromo-2-(1-ethoxyvinyl)quinoline | 1.91 mmol, 530 mg | BrC=1C=C2C=CC(=NC2=CC1)C(=C)OCC | C13H12BrNO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 2.5 mL | O | H2O
product | 2-bromo-1-(6-bromoquinolin-2-yl)ethanone | 380 mg | BrCC(=O)C1=NC2=CC=C(C=C2C=C1)Br | C11H7Br2NO
